US07834021B2
tert-Butyl{(3R)-1-[4-Hydroxy-4-(2-isopropyl-1,3-thiazol-5-yl)cyclohexyl]pyrrolidin-3-yl}carbamate.
To a Parr hydrogenation bottle was added 4-hydroxy-4-(2-isopropyl-1,3-thiazol-5-yl)cyclohexanone (0.50 g, 2.09 mmol) and tert-butyl (3R)-pyrrolidin-3-ylcarbamate (0.373 g, 2.0 mmol), dissolved in CH2Cl2 (20 mL), followed by the addition of 10% Pd/C (0.12 g). This mixture was hydrogenated at 35 psi for 24 hour. After the catalyst was filtered and washed with methanol, the filtrate was concentrated in vacuo and chromatographed using MeOH/EtOAc/Et3N (1:9:0.1) to give 0.62 g of title compound in 76% yield. MS (EI) calcd: (M+1)+=409.2; found: 410.2.

reactant | 4-hydroxy-4-(2-isopropyl-1,3-thiazol-5-yl)cyclohexanone | 2.09 mmol, 0.50 g | OC1(CCC(CC1)=O)C1=CN=C(S1)C(C)C | C12H17NO2S
reactant | tert-butyl (3R)-pyrrolidin-3-ylcarbamate | 2.0 mmol, 0.373 g | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 0.12 g | [Pd] | Pd
product | tert-Butyl{(3R)-1-[4-Hydroxy-4-(2-isopropyl-1,3-thiazol-5-yl)cyclohexyl]pyrrolidin-3-yl}carbamate | 0.62 g, 76% yield | C(C)(C)(C)OC(N[C@H]1CN(CC1)C1CCC(CC1)(C1=CN=C(S1)C(C)C)O)=O | C21H35N3O3S
